US08426447B2
A vial was charged with (S)-2-amino-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (192.0 mg, 554 μmol), cesium carbonate (271 mg, 832 μmol), and potassium iodide (92.0 mg, 554 μmol). DMF (2217 μl, 554 μmol) was added, the vial was sonicated for about 30 seconds, and the mixture was stirred vigorously for 20 min, at which time some white solid still remained. The vial was cooled in an ice-bath for 10 min, and to it chloroacetone (48.6 μl, 610 μmol) was added dropwise. The cooling bath was removed after 5 h, and the mixture was stirred for an additional 10 h. The reaction mixture was partitioned between water and EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 40-g Redi-Sep column, eluting with 2.5%-10% MeOH/DCM to afford (S)-1-(2-amino-2′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)propan-2-one as a white solid. MS m/z=403.2 [M+H]+. Calc'd for C22H19N4O4: 403.1.

reactant | (S)-2-amino-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 554 μmol, 192.0 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)O)C=2C=NC=NC2)N1 | C19H14N4O3
reactant | cesium carbonate | 832 μmol, 271 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 554 μmol, 92.0 mg | [I-].[K+]
reactant | DMF | 554 μmol, 2217 μl | CN(C)C=O | C3H7NO
reactant | chloroacetone | 610 μmol, 48.6 μl | ClCC(C)=O | C3H5ClO
product | (S)-1-(2-amino-2′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthene]-7′-yloxy)propan-2-one | NC=1OC[C@]2(C3=CC(=CC=C3OC=3C=CC(=CC23)C=2C=NC=NC2)OCC(C)=O)N1 | C22H18N4O4
